Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
oral abscess
 
Major Surgical or Invasive Procedure:
drainage R submasseteric abscess
extraction of impacted wisdom tooth

 
History of Present Illness:
___ man without signif PMH other than hyperlipidemia and 
intermittent back pain due to herniated discs. Well until dental 
extraction ___, reports roots were left in. No problems until 
___, developed jaw/R facial pain > went for root extraction. 
In ___ had ongoing pain, actually worse due to 'all the work 
they did w nerves." Saw his dentist, treated w amoxicillin for 
"possible blocked salivary gland", recommended to see oral 
surgeon. Difficulty getting appt for weeks due to insurance 
issues or not taking new pts. By end of ___ still with pain but 
noted new swelling. Returned to dentist, started clindamycin. 
Some improvement in swelling but more painful. Went to ___ 
___ Urgent Care thurs ___, treated with prednisone x6 
pills. Was again referred to oral surgeon; next day saw oral 
surg fri ___. Ddx blocked saliv gland or abscess. Recommended 
another course of clindamycin and CT scan. Tried to get meds but 
Rx was not called in. Unable to schedule CT scan bc no order was 
entered. Pt unable to eat due to inability to open mouth about 1 
week. Urgent care doc referred him to BID-N, went to ED 
yesterday tues ___.  CT neck done, showed right masseteric 
space infection, referred here for OMFS eval.  Lost 12lbs over 
last 2 weeks due to this. No F/C, sore throat, headaches, visual 
changes, SOB, DOE, cough, N/V/D, joint pain, rashes. 

Last night in ED had sweats, vomiting, maybe was after morphine. 

vitals: T100 >98.7 88 >75 99/56 > 111/67 100% RA > 96% RA
labs notable for WBC 10.2, lactate 0.8
meds administered: MSO4 4mg IV x3doses, ondansetron 4mg IV, 
unasyn 3g IV. Evaluated by ___, see note for details.

Currently reports pain ___, down from 10 last night esp during 
oral exam. Feels he can open jaw slightly more. No other c/o. 
Able to climb 2 flights stairs without SOB or CP, no smokers 
cough. ROS otherwise neg. 

 
Past Medical History:
# lumbar herniated disc x2, s/p steroid injection ___ yrs ago, no 
narcotics
# fibromyalgia secondary to Lyme disease dx ___ or ___
# Bell's palsy secondary to Lyme, resolved ___ or ___
# hyperlipidemia on meds

PSH: none
 
Social History:
___
Family History:
Son had synovial sarcoma elbow, age ___, doing ok now age ___
brother kidney ca dx age ___, doing ok now age ___
father died of non-hodgkins lymphoma age ___
mom thyroid ca s/p resection dx age ___ doing ok now age ___
 
Physical Exam:
Admission Exam:
VITALS: 97.4   123 / 70 66 16 97 RA 
GEN NAD, well-appearing
HEENT: marked R lower facial swelling with tenderness betw 
maxilla & mandible, no TMJ tenderness, +trismus, able to open 
mouth to ~1cm, MMM; neck supple FROM
CV RRRs1s2 no M
LUNGS CTA
ABD ND +BS soft NT
EXT no edema feet warm 2+ DP pulses
SKIN fine erythematous papular rash over extremities & upper 
chest (chronic per pt)
NEURO A&O X3, answers ques & follows commands, motor ___ BLE
PSYCH calm, appropriate
ACCESS PIV
FOLEY none
 
Discharge Exam:
EXAM: 98.0 121/87 60 18 99%RA
GEN:   well-appearing, seated upright in bed and in NAD. In good
humor.
EYES:  conjunctiva clear, anicteric
ENT:   moist mucous membranes; able to open mouth ~4-5cm. Small
ulceration on posterior oropharynx appears improved from
yesterday, superficial exudates are gone and there is no
surrounding erythema or edema. R facial tense edema with
tenderness to palpation over maxilla & mandible is stable.
Anterior and posterior cervical chains without significant ___.
No tenderness to palpation or significant swelling.
 
Pertinent Results:
Admission Labs:
___ 08:30PM   WBC-10.2* RBC-4.81 HGB-14.9 HCT-42.7 MCV-89 
MCH-31.0 MCHC-34.9 RDW-13.8 RDWSD-45.1
___ 08:30PM   NEUTS-59.8 ___ MONOS-7.7 EOS-2.0 
BASOS-0.6 IM ___ AbsNeut-6.08 AbsLymp-3.00 AbsMono-0.78 
AbsEos-0.20 AbsBaso-0.06
___ 08:30PM   PLT COUNT-369
___ 08:27PM   LACTATE-0.8
___ 08:30PM   GLUCOSE-94 UREA N-9 CREAT-0.9 SODIUM-136 
POTASSIUM-4.0 CHLORIDE-100 TOTAL CO2-23 ANION GAP-17

Discharge Labs:
___ 06:05AM BLOOD WBC-8.2 RBC-4.38* Hgb-13.2* Hct-38.9* 
MCV-89 MCH-30.1 MCHC-33.9 RDW-13.8 RDWSD-45.1 Plt ___
 
Micro
___ 2:00 pm SWAB      RIGHT MASSETERIC - RIGHT FACE. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      3+  ___ per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      SMEAR REVIEWED; RESULTS CONFIRMED. 

   WOUND CULTURE (Preliminary):    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    RESULTS PENDING. 

 
Brief Hospital Course:
___ man who presented to the ED with swelling and pain found to 
have masseteric abscess related to recent dental procedure.
  
# Right masseteric space abscess with trismus: 
Pt was treated empirically with unasyn initially. OMFS was 
consulted who performed external drainage with placement of 
___ drain as well as removal of an impacted wisdom tooth on 
___. Drain was left in place until morning of discharge ___. 
Pain and swelling gradually improved, and trismus gradually 
improved with tongue blade exercises as recommended by ___. He 
was tolerating po without problems. Unasyn was switched to 
empiric augmentin on ___, to complete a 7 day course following 
discharge. 
 
# Pharyngeal ulceration and exudate: 
Day prior to discharge the patient developed acute sore throat 
described as sharp pain worse with swallowing. Exam notable for 
ulceration and superficial exudates over posterior oropharynx 
and uvula. Unclear etiology though without other symptoms to 
suggest viral prodrome and already on antibiotics which would 
treat a bacterial pharyngitis. Improved dramatically on day of 
discharge. Afebrile, WBC normal, blood cx neg, on appropriate 
ABx coverage. 
   
# Hyperlipidemia: 
No acute issues, continued statin
   
# Nicotine addiction: 
Worrisome in setting of significant FH of early onset 
malignancy. Counseled pt to quit, offered NRT but declines, 
denies craving.
   
Transitional Issues:
- Patient to continue 7 day course of Augmentin after discharge

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Naproxen 500 mg PO BID jaw pain 
2. Cyclobenzaprine 10 mg PO DAILY:PRN back spasm 
3. Simvastatin 20 mg PO QPM 

 
Discharge Medications:
1. Simvastatin 20 mg PO QPM 
2. Cyclobenzaprine 10 mg PO DAILY:PRN back spasm 
3. Chloraseptic Throat Spray 1 SPRY PO PRN throat discomfort 
4. Acetaminophen 325-650 mg PO Q6H:PRN fever,pain 
5. Naproxen 500 mg PO BID jaw pain 
6. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth every twelve (12) hours Disp #*14 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# right submasseteric abscess with trismus 
# impacted wisdom tooth

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr ___,
 
It was a pleasure treating you during this hospitalization. You 
were admitted to ___ with an infection in your mouth following 
a dental procedure. You had surgery by OMFS who removed an 
impacted wisdom tooth and drained an abscess in on of the 
muscles around your mouth. Please continue to take Augmentin for 
one more week and follow up with your primary care physician and 
your dental surgeon within the next 2 weeks.
 
Followup Instructions:
___